US04582847
o-Cresol (50 g), 70 g of benzyl chloride and 38.5 g of potassium hydroxide were boiled in a mixture of 100 ml of water and 500 ml of ethanol for 4 hours. The solvent was then distilled off and the residue was shaken with 500 ml each of water and diethyl ether. The diethyl ether layer was washed with 10% sodium hydroxide and water in that order, and distilled under reduced pressure to give 70 g of an O-benzylcresol fraction boiling at 130°-133° C./5 mmHg.

reactant | o-Cresol | 50 g | C1(=CC=CC=C1O)C | C7H8O
reactant | benzyl chloride | 70 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium hydroxide | 38.5 g | [OH-].[K+]
solvent | water | 100 ml | O | H2O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | O-benzylcresol | 70 g | C(C1=CC=CC=C1)OC1=CC=CC=C1C | C14H14O
